data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_209124_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:5](/[C:2]([O:7][H:10])([H:12])[H:13])[O:8][C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([O:7][H:10])([H:12])[H:13])=[O:8])([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])[H:11],48.29365499998772
MR_528526_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([N:5]([N:7]([H:11])[H:12])[H:9])([N:8]=[C:6]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:8]/[C:6]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[N:5]([N:7]([H:11])[H:12])[H:9])[H:10],56.405347499981815
MR_666471_0,[C:1]([C:4]([N:2]([C:3]([N:6]([H:11])[H:12])=[O:7])[N:5]([H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:4]([C:3]([N:6]([H:11])[H:12])=[O:7])=[O:8])[N:5]([H:9])[H:10])([H:13])([H:14])[H:15],69.8576925000107
MR_307009_0,[C:1]([C:2](=[C:3]([H:11])[H:12])[O:6][H:8])([O:4][O:5][H:7])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([O:4][O:5][H:7])([H:11])[H:12])[O:6][H:8])([H:9])[H:10],53.54081000000889
MR_263707_1,[C:1]([N:3]([C:5]([C:4]([N:6]([H:14])[H:15])([O:8][C:2]([H:16])([H:17])[H:18])[O:10][H:11])=[C:7]([H:19])[H:20])[H:12])(=[O:9])[H:13]>>[C:1]([N:3]([C:5]([C:4]([N:6]([H:14])[H:15])=[O:10])=[C:7]([H:19])[H:20])[H:12])([O:8][C:2]([H:16])([H:17])[H:18])([O:9][H:11])[H:13],29.970027500023093
MR_90669_0,[C@@:1]1([C:4]([H:15])([H:16])[H:17])([H:8])[C:2]([H:10])([H:11])[N:7][C:6]([H:9])[N:5]1[C:3]([H:12])([H:13])[H:14]>>[C@@:1]1([C:4]([H:15])([H:16])[H:17])([H:8])[C:2]([H:10])([H:11])[N:7]1/[C:6](=[N:5]/[C:3]([H:12])([H:13])[H:14])[H:9],69.29482499996936
MR_434455_1,[C:1]1([H:8])([H:9])/[C:2](=[N:6]\[H:7])[N:5]1[C:3](=[O:4])[H:10]>>[C:1]1([H:8])([H:9])/[C:2](=[N:6]\[H:7])[N:5]=[C:3]([H:10])[O:4]1,34.95425999999469
MR_386504_2,[C:1]([C:2]([N:8]=[C:6]([H:19])[H:20])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])([N:5]([H:9])[H:10])[O:7][C:3]([H:13])([H:14])[H:15]>>[C:1]([C:2]([O:7][C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])([N:5]([H:9])[H:10])[N:8]=[C:6]([H:19])[H:20],73.13010500002392
MR_419240_1,[C:1]12([C:6](=[C:7]([H:14])[H:15])[H:13])[C:4]([H:11])([C:2]([N:3]([H:9])[H:10])=[C:5]1[H:12])[O:8]2>>[c:1]1([C:6](=[C:7]([H:14])[H:15])[H:13])[c:5]([H:12])[c:2]([N:3]([H:9])[H:10])[c:4]([H:11])[o:8]1,26.10462750000892
MR_29890_1,[C:1]([C:3]([N:2]([C:4]([N:5]([H:9])[H:10])=[C:6]([H:14])[H:15])[H:8])=[O:7])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]/[H:8])[O:7][C:4]([N:5]([H:9])[H:10])=[C:6]([H:14])[H:15])([H:11])([H:12])[H:13],62.770707499997656
MR_503035_1,[C:1]1([H:13])([H:14])[C:5](/[C:2]([N:3]([H:9])[H:10])=[N:4]/[H:11])([H:15])[N:6]1[N:7]([H:8])[H:12]>>[C:1]([C:5](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:8])[H:11])[H:15])(/[N:6]=[N:7]\[H:12])([H:13])[H:14],27.209027500002776
MR_17323_1,[C:1]([C:6]([C:2]([H:16])([H:17])[H:18])=[C:5](/[C:4](=[C:8](\[C:3]([H:20])([H:21])[H:22])[H:13])[O:9][H:10])[N:7]([H:11])[H:12])([H:14])([H:15])[H:19]>>[C:1]([C:6]1([C:2]([H:16])([H:17])[H:18])[C:5]([N:7]([H:11])[H:12])=[C:4]([O:9][H:10])[C:8]1([C:3]([H:20])([H:21])[H:22])[H:13])([H:14])([H:15])[H:19],43.34393499996466
MR_71880_1,[C:1]([N:4]([N:5]([H:8])[H:9])[C:7](=[C:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:7](/[C:6]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[N:5]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13],57.54363249999713
MR_264079_1,[C:1]([C:4]1([N:2]([O:7][H:9])[H:10])[C:3](=[O:8])[C:6]1([N:5]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:2]([O:7][H:9])[H:10])=[C:6](\[C:3]([N:5]([H:11])[H:12])=[O:8])[H:13])([H:14])([H:15])[H:16],50.06132250001912
MR_281040_0,[C:1](/[C:2]([N:4]([H:12])[H:13])=[N:9]\[O:7][H:10])(/[C:3]([N:5]([H:14])[H:15])=[C:6](/[O:8][H:11])[H:16])([H:17])[H:18]>>[C:1](=[C:3]([N:5]([H:14])[H:15])[C:6](/[C:2]([N:4]([H:12])[H:13])=[N:9]\[O:7][H:10])([O:8][H:11])[H:16])([H:17])[H:18],69.58410250002373
MR_467427_1,[C@@:1]1([O:5][N:4]([H:8])[H:9])([H:7])[C:2]([H:10])([H:11])[N:3]1[H:6]>>[C:1](\[C:2]([O:5][N:4]([H:8])[H:9])([H:10])[H:11])(=[N:3]/[H:6])[H:7],61.70207499998483
MR_536922_1,[C:1]([C:2]1([O:8][H:9])[C:3]([N:4]([H:10])[H:11])(/[C:7](=[N:5]/[H:12])[H:15])[C:6]1([H:13])[H:14])([H:16])([H:17])[H:18]>>[C:1](/[C:2](=[C:6]([C:3](\[N:4]([H:10])[H:11])=[C:7](/[N:5]([H:12])[H:13])[H:15])/[H:14])[O:8][H:9])([H:16])([H:17])[H:18],45.71588500003983
MR_210909_0,[C:1]1([O:6][H:10])([O:7][H:11])[C:4]([H:16])([H:17])[C:3]([H:14])([H:15])[C:2]([O:8][H:12])([O:9][H:13])[O:5]1>>[C:1]([C:4]([C:3]([C:2]([O:5][H:11])([O:8][H:12])[O:9][H:13])([H:14])[H:15])([H:16])[H:17])([O:6][H:10])=[O:7],26.0575650000564
MR_411381_0,[C:1]1([C:3]([H:10])([H:12])[H:13])([C:4]([H:11])([H:14])[H:15])[C:2]([O:6][H:7])([H:9])[N:5]1[H:8]>>[C:1](/[C:2](=[N:5]\[H:8])[H:9])([C:3]([H:10])([H:12])[H:13])([C:4]([H:11])([H:14])[H:15])[O:6][H:7],58.92287749997479
